US05637593
5-(Pyrid-2-yloxy)indole (0.22 g, 1.04 mmol), 1-methylpiperid-4-one (0.235 g, 2.08 mmol) and sodium methoxide (0.337 g) were heated at reflux in MeOH (20 mL) for 48 hr, over activated molecular sieves. After cooling and work-up, the residue was chromatographed (silica gel; CH2Cl2 /MeOH; 0-25%) to give 3-(1-methyl-1,2,5,6-tetrahydropyrid-4-yl)-5-(pyrid-2-yloxy)indole, a gum, 0.083 g (26%). This free base was treated with oxalic acid in MeOH/Et2O to give: 3-(1-methyl-1,2,5,6-tetrahydropyrid-4-yl)-5-(pyrid-2-yloxy)indole oxalate, m.p. 240°-45° C.

reactant | 5-(Pyrid-2-yloxy)indole | 1.04 mmol, 0.22 g | N1=C(C=CC=C1)OC=1C=C2C=CNC2=CC1 | C13H10N2O
reactant | 1-methylpiperid-4-one | 2.08 mmol, 0.235 g | CN1CCC(CC1)=O | C6H11NO
reactant | sodium methoxide | 0.337 g | C[O-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 3-(1-methyl-1,2,5,6-tetrahydropyrid-4-yl)-5-(pyrid-2-yloxy)indole | CN1CC=C(CC1)C1=CNC2=CC=C(C=C12)OC1=NC=CC=C1 | C19H19N3O
